US04380544
2.25 g of 2,4-dichlorobenzyl 3-pyridyl ketone, 2.2 g of p-toluenesulfonic acid monohydrate and 1.0 g of ethylene glycol are heated at reflux for 24 hours in 20 ml of xylene, the resulting water being separated in a water separator. The mixture is then cooled, poured into 2N sodium hydroxide and extracted with diethyl ether, the organic phase is dried over anhydrous sodium sulfate and the solvent is removed under reduced pressure. The crude product is purified by chromatography on silica gel with n-hexane/ethyl acetate (1:1) to yield 3-[2-(2,4-dichlorobenzyl)-1,3-dioxolan-2-yl]pyridine, which melts at 76°-78°.

reactant | 2,4-dichlorobenzyl 3-pyridyl ketone | 2.25 g | N1=CC(=CC=C1)C(=O)CC1=C(C=C(C=C1)Cl)Cl | C13H9Cl2NO
reactant | p-toluenesulfonic acid monohydrate | 2.2 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | ethylene glycol | 1.0 g | C(CO)O | C2H6O2
solvent | xylene | 20 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 3-[2-(2,4-dichlorobenzyl)-1,3-dioxolan-2-yl]pyridine | ClC1=C(CC2(OCCO2)C=2C=NC=CC2)C=CC(=C1)Cl | C15H13Cl2NO2
